US06436915B1
Synthesis of 3,5-Diamino-4-[(3-iodophenyl)hydrazono]pyrazole
This compound was prepared using 148 mg (0.5 mmol) of 2-[(3-iodophenyl)hydrazono]-malononitrile, which was derived from 3-iodoaniline (219 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. The hydrazine hydrate was added to the solution at a temperature of 75° C. despite the fact that the starting material had not fully dissolved. The solution cleared briefly and then a precipitate formed. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 122 mg (74%) of the title compound as a mustard coloured solid.

reactant | 2-[(3-iodophenyl)hydrazono]-malononitrile | 0.5 mmol, 148 mg | IC=1C=C(C=CC1)NN=C(C#N)C#N | C9H5IN4
reactant | 3-iodoaniline | 1.0 mmol, 219 mg | IC=1C=C(N)C=CC1 | C6H6IN
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(3-iodophenyl)hydrazono]pyrazole | 122 mg, 74% | NC1=NN=C(C1=NNC1=CC(=CC=C1)I)N | C9H9IN6
